US08563575B2
1-Methyl-2-(methylsulfonyl)-4,5,6,7-tetrahydro-1H-benzimidazole (84 mg) was added to a solution of 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (100 mg) and NaH (18.8 mg) (60% in mineral oil) in DMA (3 mL) in a microwave vessel. The vessel was sealed and subjected to microwave irradiation (at 120° C. set by IR sensor, fixed hold time: on, Absorption level: High) for 1 h in a Biotage Initiator 60EXP. The mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, eluted with 20%-100% EtOAc in hexane) to give 1-ethyl-3-{4-[(1-methyl-4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (8.90 mg) as white crystals.

reactant | 1-Methyl-2-(methylsulfonyl)-4,5,6,7-tetrahydro-1H-benzimidazole | 84 mg | CN1C(=NC2=C1CCCC2)S(=O)(=O)C | C9H14N2O2S
reactant | 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 100 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)O)=O | C14H13N3O2
reactant | NaH | 18.8 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | 1-ethyl-3-{4-[(1-methyl-4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 8.90 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2C)CCCC1)=O | C22H23N5O2
